US08492378B2
methyl 3-bromo-1-benzothiophene-5-carboxylate
To a solution of methyl 1-benzothiophene-5-carboxylate (5.15 g, 26.8 mmol) in acetic acid (50 mL) was added dropwise bromine (2.06 mL, 40.2 mmol) at room temperature, and the resulting mixture was stirred for 2 hr. The reaction mixture was diluted with ethyl acetate, washed with 1 M aqueous sodium sulfite solution, saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1), and crystallized from hexane/ethyl acetate to give the title compound (6.20 g, yield 85%) as colorless crystals.

reactant | methyl 1-benzothiophene-5-carboxylate | 26.8 mmol, 5.15 g | S1C=CC2=C1C=CC(=C2)C(=O)OC | C10H8O2S
reactant | bromine | 40.2 mmol, 2.06 mL | BrBr | Br2
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 3-bromo-1-benzothiophene-5-carboxylate | 6.20 g, yield 85% | BrC1=CSC2=C1C=C(C=C2)C(=O)OC | C10H7BrO2S
